US07981903B2
Nitrogen was bubbled through dichloromethane (100 mL) for 10 minutes followed by the addition of N-dimethylbarbituric acid (15.4 g, 98.4 mmol) and Pd(PPh3)4 (1.9 g, 1.6 mmol). After the addition of 5-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)-1,2,3,6-tetrahydropyridine, the reaction was heated to 35° C. and stirred for 3 h. To the cooled solution was added saturated aq. Na2CO3 (100 mL), and the mixture was allowed to stir at RT for 30 min. After extraction with dichloromethane (2×50 mL), drying (Na2SO4), and concentration, chromatography on SiO2 afforded 5-[3-(methyloxy)-4-nitrophenyl]-1,2,3,6-tetrahydropyridine (5.3 g, 70% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.31 (d, J=4.0 Hz, 2 H), 3.02 (t, J=5.7 Hz, 2 H), 3.29 (s, 1H), 3.71 (d, J=1.8 Hz, 2 H), 3.97 (s, 3 H), 6.32 (t, J=4.0 Hz, 1 H), 6.95 (d, J=8.4 Hz, 1H), 6.98 (s, 1 H), 7.85 (d, J=8.4 Hz, 1 H).

reactant | 5-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)-1,2,3,6-tetrahydropyridine | COC=1C=C(C=CC1[N+](=O)[O-])C1=CCCN(C1)CC=C | C15H18N2O3
catalyst | Pd(PPh3)4 | 1.6 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-[3-(methyloxy)-4-nitrophenyl]-1,2,3,6-tetrahydropyridine | 5.3 g, 70% yield | COC=1C=C(C=CC1[N+](=O)[O-])C1=CCCNC1 | C12H14N2O3
